US04608374
11-{1-[2-(4-Hydroxy-3-methoxyphenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine
A mixture of 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]-benzoxazepine (5.1 g, 0.019 mole), 4-hydroxy-3-methoxyphenethyl chloride (4.25 g, 0.023 mole) and NaHCO3 (11 g) in 110 ml n-butyl acetate was heated at reflux for 18 hours. The reaction mixture was then cooled, filtered and concentrated to an oil.

reactant | 11-(piperidin-4-yl)-5H,11H-pyrrolo[2,1-c][1,4]-benzoxazepine | 0.019 mole, 5.1 g | N1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2 | C17H20N2O
reactant | 4-hydroxy-3-methoxyphenethyl chloride | 0.023 mole, 4.25 g | OC1=C(C=C(CCCl)C=C1)OC | C9H11ClO2
reactant | NaHCO3 | 11 g | C(=O)(O)[O-].[Na+]
solvent | n-butyl acetate | 110 ml | C(C)(=O)OCCCC | C6H12O2
product | 11-{1-[2-(4-Hydroxy-3-methoxyphenyl)ethyl]piperidin-4-yl}-5H,11H-pyrrolo[2,1-c][1,4]benzoxazepine | OC1=C(C=C(C=C1)CCN1CCC(CC1)C1OC2=C(CN3C1=CC=C3)C=CC=C2)OC | C26H30N2O3
